US06265411B1
A solution of 5-cyanooxindole (285 mg, 1.8 mmol), (Tet. Lett., 1987, 28, 4027), in THF (12 ml) was added dropwise under nitrogen, to a suspension of sodium hydride (96 mg, 2.4 mmol, prewashed with hexane) in THF (5 ml). The mixture was stirred for 20 minutes at ambient temperature, and a solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (162 mg, 0.6 mmol), (prepared as described for the starting material in Example 2), in DMF (0.5 ml) in THF (3 ml) was added dropwise. The mixture was stirred for 20 minutes at ambient temperature and then 1 hour at 65° C. The solvent was removed by evaporation and the residue was purified by column flash chromatography eluting with methylene chloride/methanol (97/3 followed by 96/4 and 90/10). The solid was collected by filtration, resuspended in methylene chloride and 2M ethereal hydrogen chloride was added. The solid was collected by filtration, washed with ether and dried under vacuum at 60° C. to give 4-(5-cyanooxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride (92 mg, 40%).

reactant | 5-cyanooxindole | 1.8 mmol, 285 mg | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | sodium hydride | 2.4 mmol, 96 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.6 mmol, 162 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-(5-cyanooxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride | 92 mg, 40% | Cl.C(#N)C=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCOC | InChI=1S/C21H18N4O4.ClH/c1-27-5-6-29-18-9-16-14(8-17(18)28-2)20(24-11-23-16)19-13-7-12(10-22)3-4-15(13)25-21(19)26;/h3-4,7-9,11,19H,5-6H2,1-2H3,(H,25,26);1H
